US06339099B1
To a solution of 4-bromo-2-fluoroaniline (19.2 g, 100 mmol) in THF (100 mL) at 0° C. was slowly added LiN(TMS)2 (1M in THF, 200 mL) over 30 minutes. After the resulting solution was warmed to room temperature, a solution of di-tert-butyl dicarbonate (21.8 g, 100 mmol) in THF (50 mL) was slowly added, stirred for 15 minutes, and filtered through a pad of silica gel. The filtrate was concentrated and recrystalized from hexane to give 4-bromo-2-fluoro-1-tert-butoxycarbonylaniline (27.7 g, 95%). 1H NMR (CDCl3) δ8.00 (t, J=8.8 Hz, 1H), 7.25-7.20 (m, 2H), 6.66 (bs, 1H), 1.52 (s, 9H); 19F NMR (CDCl3) δ−130.42; MS(ES+) m/z 290/292 (M+H, 100).

reactant | 4-bromo-2-fluoroaniline | 100 mmol, 19.2 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | LiN(TMS)2 | 1M, 200 mL | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | di-tert-butyl dicarbonate | 100 mmol, 21.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-bromo-2-fluoro-1-tert-butoxycarbonylaniline | 27.7 g, 95% | BrC1=CC(C(N)(C=C1)C(=O)OC(C)(C)C)F | C11H15BrFNO2
